US08034812B2
Production of 3-(1-cyano-1-methylethyl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methylphenyl]benzamide
Using N-[6-(5-amino-2-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (150 mg, 0.46 mmol), 3-(1-cyano-1-methylethyl)benzoic acid (92 mg, 0.49 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (94 mg, 0.49 mmol), 1-hydroxybenzotriazole (66 mg, 0.49 mmol) and N,N-dimethylformamide (7.0 mL) as starting materials and in the same manner as in Example 318, the title compound (160 mg, 70%) was obtained as a white powder.

reactant | N-[6-(5-amino-2-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.46 mmol, 150 mg | NC=1C=CC(=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C1)C | C17H17N5O2
reactant | 3-(1-cyano-1-methylethyl)benzoic acid | 0.49 mmol, 92 mg | C(#N)C(C)(C)C=1C=C(C(=O)O)C=CC1 | C11H11NO2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.49 mmol, 94 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.49 mmol, 66 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 7.0 mL | CN(C=O)C | C3H7NO
product | 3-(1-cyano-1-methylethyl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methylphenyl]benzamide | 160 mg, 70% | C(#N)C(C)(C)C=1C=C(C(=O)NC2=CC(=C(C=C2)C)OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C28H26N6O3
